US08378108B2
A solution of 4-bromopyridine-2-carboxylic acid (3.76 g, 18.6 mmol), 3-[1,3,4]oxadiazol-2-yl-phenylamine (3.0 g, 18.6 mmol), (2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU) (7.1 g, 18.7 mmol), and diisopropylethylamine (15 mL) in N,N-dimethylformamide was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure, and the residue was stirred with acetonitrile (40 mL) and water (40 mL). The solid thus obtained was isolated by filtration, washed with water (20 mL), acetonitrile (20 mL) and diethyl ether (40 mL), and dried under reduced ressure to give N-(3-(1,3,4-oxadiazol-2-yl)phenyl)-4-bromopicolinamide as a white powder (5.2 g, 15.0 mmol, 81% yield).

reactant | 4-bromopyridine-2-carboxylic acid | 18.6 mmol, 3.76 g | BrC1=CC(=NC=C1)C(=O)O | C6H4BrNO2
reactant | 3-[1,3,4]oxadiazol-2-yl-phenylamine | 18.6 mmol, 3.0 g | O1C(=NN=C1)C=1C=C(C=CC1)N | C8H7N3O
reactant | 2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 18.7 mmol, 7.1 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 15 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(3-(1,3,4-oxadiazol-2-yl)phenyl)-4-bromopicolinamide | 15.0 mmol, 5.2 g, 81% yield | O1C(=NN=C1)C=1C=C(C=CC1)NC(C1=NC=CC(=C1)Br)=O | C14H9BrN4O2
